US04026900
The above intermediate ethyl isonicotinoylacetate is a known compound [Pinner, Chem. Ber. 34, 4249 (1901)] and can be prepared by various means, for example, from isonicotinic acid by the following procedure: To a stirred suspension containing 123 g. of isonicotinic acid in 750 ml. of toluene was added 131 g. of thionyl chloride followed by the addition of 1 ml. of dimethylformamide. The mixture was heated to 100° C. for ninety minutes, cooled to 90° C., and 80 ml. of absolute ethanol was added dropwise very carefully to the stirred reaction mixture. The temperature was then brought back up to 100° C. and kept there for ninety minutes and then chilled in an ice bath. The separated precipitate was collected, washed with ether and dried in a vacuum oven at 70° C. for two hours to yield 180 g. (96% yield) of ethyl isonicotinate hydrochloride, m.p. 166°-168° C. Since this ester hydrochloride tends to sublime in the vacuum oven, it is not necessary to dry the product at this stage and the base can be liberated from the wet product. The ethyl isonicotinate hydrochloride was dissolved in 1 liter of cold water, the solution covered with ether and the mixture cooled in an ice bath. Then 90 g. of sodium bicarbonate was added carefully to the stirred mixture. The layers were separated, and the aqueous phase was extracted twice with ether and the extract combined with the original ether layer. The combined ether solutions were dried over anhydrous magnesium sulfate and concentrated in vacuo to remove the ether, thereby yielding 136 g. of ethyl isonicotinate, nD25 =1.4940, which distilled at 97°-98° C. and 10-11 mm. to yield 129 g. of said compound, nD25 =1.4975. To 4 liters of refluxing ethanol was added 115 g. of sodium so as to maintain steady reflux. The sodium ethoxide solution was concentrated under vacuum to a white powder. To this was added a solution of 498 g. of ethyl isonicotinate and 580 g. of ethyl acetate in one portion. Solution was complete in thirty minutes and the reaction mixture was refluxed for twenty hours. The reddish-orange solution was poured into 5 liters of water and washed twice with ether. The aqueous layer was then acidified with acetic acid and the oil that separated was collected. The aqueous layer was saturated with sodium chloride and the mixture was extracted with ethyl acetate. These extracts were combined with the oil, the solution was dried, treated with decolorizing charcoal and filtered; and, the filtrate was concentrated to give 582 g. of red oil which crystallized on cooling. This oil was dissolved in approximately 400 ml. of warm methanol and 1 liter of water was added. The mixture was cooled to below 0° C. and the separated product was collected, thereby yielding 490 g. of ethyl isonicotinoyl acetate, m.p. 59°-61° C. Concentration of the mother liquor gave an additional 15 g., m.p. 58°-60° C., for a total yield of 505 g. (80% yield).

reactant | ethyl isonicotinoylacetate | C(C1=CC=NC=C1)(=O)CC(=O)OCC | C10H11NO3
reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl isonicotinate hydrochloride | 96% yield | Cl.C(C1=CC=NC=C1)(=O)OCC | InChI=1S/C8H9NO2.ClH/c1-2-11-8(10)7-3-5-9-6-4-7;/h3-6H,2H2,1H3;1H
